US04574155
Preparation of 2-Hydrazino-5,5-Dimethyl-1,3-Diazacyclohex-2-ene Monohydrochloride
Hydrazine hydrate (1.98 grams; 0.0396 mole) is added to a mixture of 1-propanol (50 mls), ammonium chloride (1.56 grams; 0.028 mole), and 2-nitroamino5,5-dimethyl-1,3-diazacyclohex-2-ene (5.0 grams; 0.029 mole). The resulting mixture is heated to 95° C. over a period of 20 minutes, and stirred thereat for 2 hours. Additional hydrazine hydrate (0.94 gram; 0.0187 mole) is then added to the reaction mixture, and heating at 95° C. is continued for an additional 24 hours. The slurry is then cooled to room temperature and the precipitate is isolated by filtration, washed with 1-propanol (20 mls) and dried under a vacuum at 50° C. to obtain 3.55 grams (68.5% of theoretical) of the desired product. Evaporation of the filtrate affords a second crop (1.5 grams) of the same compound. The total yield in two crops is 96.5% of theoretical. The infrared absorption spectra of the two crops are identical with that of 2-hydrazino-5,5-dimethyl-1,3-diazacyclohex-2ene monohydrochloride.

reactant | Hydrazine hydrate | 0.0396 mole, 1.98 grams | O.NN
reactant | ammonium chloride | 0.028 mole, 1.56 grams | [Cl-].[NH4+]
reactant | 2-nitroamino5,5-dimethyl-1,3-diazacyclohex-2-ene | 0.029 mole, 5.0 grams | [N+](=O)([O-])NC=1NCC(CN1)(C)C | C6H12N4O2
reactant | hydrazine hydrate | 0.0187 mole, 0.94 gram | O.NN
solvent | 1-propanol | 50 mls | C(CC)O | C3H8O
product | 2-Hydrazino-5,5-Dimethyl-1,3-Diazacyclohex-2-ene Monohydrochloride | Cl.N(N)C=1NCC(CN1)(C)C | InChI=1S/C6H14N4.ClH/c1-6(2)3-8-5(10-7)9-4-6;/h3-4,7H2,1-2H3,(H2,8,9,10);1H
